US05556858
(B) 4-(4-bromobutyl)-1-(1,3-dithian-2-yl)ethylbenzene
A solution of 4-bromo-1-(1,3-dithian-2-yl)ethylbenzene (27.2 g, 94 mmol) in tetrahydrofuran (200 ml) was charged with sec-butyl]ithium (99 ml, 1.3M in cyclohexane, 0.13 mole) dropwise at -78° C. under nitrogen. The mixture was stirred at ambient temperature for 1.5 hours, and then quenched with 1,4-dibromobutane (42 g, 0.2 mole). After being stirred for 3 hours, the mixture was poured into ethyl acetate, and then washed with water and brine. The organic solution was then dried (Na2SO4) and concentrated to an oil. The crude product was purified by flash chromatography over a silica gel column. The 4-(4-bromobutyl)-1-(l,3-dithian-2-yl)-ethylbenzene thus purified was a light oil, 22.3 g.

reactant | 4-bromo-1-(1,3-dithian-2-yl)ethylbenzene | 94 mmol, 27.2 g | BrC1=CC=C(C=C1)C(C)C1SCCCS1 | C12H15BrS2
reactant | 1,4-dibromobutane | 0.2 mole, 42 g | BrCCCCBr | C4H8Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 4-(4-bromobutyl)-1-(1,3-dithian-2-yl)ethylbenzene | BrCCCCC1=CC=C(C=C1)C(C)C1SCCCS1 | C16H23BrS2
